US07538242B2
Synthesis of n-butyl (R)-2-[3-[N-[3-(4-methoxyphenoxy)propyl]aminomethyl]phenoxy]butyrate
3-(4-Methoxyphenoxy)propylamine (34 mg) was dissolved in methanol (3 mL), and a solution (2 mL) of n-butyl (R)-2-(3-formylphenoxy)butyrate (50 mg) in methanol was added thereto under stirring at room temperature. The mixture was further stirred at 80° C. for 12 hours. Subsequently, an aqueous solution (0.5 mL) of sodium borohydride (7 mg) was added to the solution at room temperature, and the mixture was stirred for 30 minutes. The reaction solution was concentrated under reduced pressure, and chloroform was added to the concentrated product. The formed organic layer was washed with water. The washed organic layer was dried over sodium sulfate anhydrate, and concentrated under reduced pressure, to thereby yield 81 mg of a pale yellow, oily substance. The entirety of the substance was employed in the following reaction without any further treatment.

reactant | 3-(4-Methoxyphenoxy)propylamine | 34 mg | COC1=CC=C(OCCCN)C=C1 | C10H15NO2
reactant | n-butyl (R)-2-(3-formylphenoxy)butyrate | 2 mL, 50 mg | C(=O)C=1C=C(O[C@@H](C(=O)OCCCC)CC)C=CC1 | C15H20O4
reactant | sodium borohydride | 0.5 mL, 7 mg | [BH4-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
product | n-butyl (R)-2-[3-[N-[3-(4-methoxyphenoxy)propyl]aminomethyl]phenoxy]butyrate | COC1=CC=C(OCCCNCC=2C=C(O[C@@H](C(=O)OCCCC)CC)C=CC2)C=C1 | C25H35NO5
